Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: Encounter for planned chemotherapy 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: A ___ year old male with PMH of
HTN/HLD, prostate cancer and DLBCL(Double-hit) and secondary
intravascular lymphoma (s/p 6 cycles of DA-EPOCH/R and 3 cycles
of HD MTX for CNS prophylaxis). He was in remission until
___ when he presented with 3 week history of diplopia
and gait instability. CT and MRI of head showed new pontine
lesion concerning for recurrent lymphoma. CSF on LP did not have
many cells but the few cells that were collected were negative
for BCL6 rearrangement by FISH. CT torso did not show evidence 
of
systemic recurrent lymphoma. Received IT MTX with LP on
___. Now s/p 4C HD MTX and 2C of Temodar. Course thus far
c/b ___ and delayed clearance. He is now presenting for C5 of HD
MTX (3.5)

 
Past Medical History:
As per outpatient clinic notes: Mr. ___ is a ___ year old man
with history of hypertension, hyperlipidemia, and prostate 
cancer
s/p prostatectomy who presented to his PCP's office with six
weeks of progressive fatigue and shortness of breath with noted
16 pound weight loss.  CT of the torso reportedly revealed bulky
intrathoracic and intraabdominal lymphadenopathy.  He was
referred to ___ ED on ___ for further care, where he was
noted to have elevated LDH of over 10,000, uric acid of 13, and
phosphorus of 5, and creatinine of 1.7, concerning for
spontaneous tumor lysis syndrome.  He was noted for anemia and
lower platelet count with normal white count.  He was admitted 
to
the ___ for further care and was started on Rasburicase and
aggressive IVF with frequent lab draws.  Also noted for acute
hypoxic respiratory failure with tachypnea and oxygen 
requirement
on admission, which persisted for several days. Etiology 
remained
unclear; imaging was negative, including V/Q scan which ruled 
out
acute PE.  Symptoms resolved with treatment of underlying
process. 

Bone marrow biopsy on ___ and left supraclavicular lymph
node biopsy on ___ demonstrated a double hit lymphoma with
TP53 mutation (along with complex karyotype), with secondary
intravascular component.  

TREATMENT HISTORY
 - ___, C1 DA-EPOCH.
 - ___, Rituximab(delayed due to large tumor burden and
given slowly over 2 days).  Remained in hospital through nadir
which was supported by Neupogen; discharged on ___.   
 - ___, LP with IT MTX for CNS prophylaxis
 - ___, C2 DA-EPOCH/Rituxan, dose level 1.  Prednisone
given once per day.  POC placed prior to ___ cycle.
 - ___, Rituxan
 - ___, C3 DA-EPOCH, dose level 2.  Prednisone given once
per day.
 - ___, Rituxan
 - ___, PET scan shows no FDG avid adenopathy.
 - ___, C4 DA-EPOCH, dose level 3(Adriamycin kept at dose
level 2).  Prednisone given once per day.
 - ___, Rituxan
 - ___, C5 DA-EPOCH, dose level 4(Adriamycin kept at dose
level 2; Vincristine capped at 2 mg total dose).
 - ___, C6 DA-EPOCH, dose level 4(Adriamycin kept at dose
level 2; Vincristine capped at 2 mg total dose).
 - ___, C1 HD Methotrexate 3.5 gm/m2
 - ___, C2 HD Methotrexate 3.5 gm/m2, delayed 1 week for
biopsy of femur lesion; no evidence of lymphoma.
 - ___, C3 HD Methotrexate
 - ___, Admitted with double vision with CT and
MRI of head showing new pontine lesion. No abnormal cells noted
in CSF
 - ___, IT MTX given with LP
 - ___, HD MTX 8000 mg/m2
 - ___, Temodar x 5 days
 - ___, HD MTX 8000 mg/m2
 - ___ HD MTX 8000 mg/m2
-  ___ Temodar x 5 days
-  ___ Rituxan
-  ___ C4 HD MTX 8g/m2
-   ___ C5 HD MTX 8g/m2

PAST ONCOLOGIC HISTORY
As per outpatient clinic notes: Mr. ___ is a ___ year old man
with history of hypertension, hyperlipidemia, and prostate 
cancer
s/p prostatectomy who presented to his PCP's office with six
weeks of progressive fatigue and shortness of breath with noted
16 pound weight loss.  CT of the torso reportedly revealed bulky
intrathoracic and intraabdominal lymphadenopathy.  He was
referred to ___ ED on ___ for further care, where he was
noted to have elevated LDH of over 10,000, uric acid of 13, and
phosphorus of 5, and creatinine of 1.7, concerning for
spontaneous tumor lysis syndrome.  He was noted for anemia and
lower platelet count with normal white count.  He was admitted 
to
the FICU for further care and was started on Rasburicase and
aggressive IVF with frequent lab draws.  Also noted for acute
hypoxic respiratory failure with tachypnea and oxygen 
requirement
on admission, which persisted for several days. Etiology 
remained
unclear; imaging was negative, including V/Q scan which ruled 
out
acute PE.  Symptoms resolved with treatment of underlying
process. 

Bone marrow biopsy on ___ and left supraclavicular lymph
node biopsy on ___ demonstrated a double hit lymphoma with
TP53 mutation (along with complex karyotype), with secondary
intravascular component.  

TREATMENT HISTORY
 - ___, C1 DA-EPOCH.
 - ___, Rituximab(delayed due to large tumor burden and
given slowly over 2 days).  Remained in hospital through nadir
which was supported by Neupogen; discharged on ___.   
 - ___, LP with IT MTX for CNS prophylaxis
 - ___, C2 DA-EPOCH/Rituxan, dose level 1.  Prednisone
given once per day.  POC placed prior to ___ cycle.
 - ___, Rituxan
 - ___, C3 DA-EPOCH, dose level 2.  Prednisone given once
per day.
 - ___, Rituxan
 - ___, PET scan shows no FDG avid adenopathy.
 - ___, C4 DA-EPOCH, dose level 3(Adriamycin kept at dose
level 2).  Prednisone given once per day.
 - ___, Rituxan
 - ___, C5 DA-EPOCH, dose level 4(Adriamycin kept at dose
level 2; Vincristine capped at 2 mg total dose).
 - ___, C6 DA-EPOCH, dose level 4(Adriamycin kept at dose
level 2; Vincristine capped at 2 mg total dose).
 - ___, C1 HD Methotrexate 3.5 gm/m2
 - ___, C2 HD Methotrexate 3.5 gm/m2, delayed 1 week for
biopsy of femur lesion; no evidence of lymphoma.
 - ___, C3 HD Methotrexate
 - ___, Admitted with double vision with CT and
MRI of head showing new pontine lesion.  No abnormal cells noted
in CSF
 - ___, IT MTX given with LP
 - ___, HD MTX 8000 mg/m2
 - ___, Temodar x 5 days
 - ___, HD MTX 8000 mg/m2
 - ___ HD MTX 8000 mg/m2
 
PAST MEDICAL HISTORY: 
-Double hit" lymphoma(as well as P53)
-HTN 
-Prostate cancer status post prostatectomy
-HLD
-non-allergic rhinosinusitis
-Nasal polyps
 
Social History:
___
Family History:
Brother: Multiple ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
___ 1554 Temp: 97.8 PO BP: 158/72 L Sitting HR: 87 RR: 18 
O2
sat: 95% O2 delivery: Ra 
GENERAL: NAD
HEENT: MMM, no OP lesions, PERRLA. 
NECK: Supple. No JVD
LUNGS: CTAB. No wheezes/rales/rhonchi. 
CV: RRR. Normal S1/S2. No S3/S4, no M/R/G.  
ABD: Soft, NT/ND, normoactive BS throughout, no HSM
EXT: WWP no deformity ___ edema. 
SKIN: Warm, dry, no rash
NEURO: AOx3, fluent speech, no apparent word finding
difficulties, CN III-XII intact, strength b/l ___ intact, gait
steady. 
ACCESS: DL PORT w/o erythema, bleeding or discharge 
  
___ 0821 Temp: 98.2 PO BP: 163/89 HR: 76 RR: 18 O2 sat: 97%
O2 delivery: Rd 
GENERAL: NAD
HEENT: MMM, no OP lesions, PERRLA. 
NECK: Supple. No JVD
LUNGS: CTAB. No wheezes/rales/rhonchi. 
CV: RRR. Normal S1/S2. No S3/S4, no M/R/G.  
ABD: Soft, NT/ND, normoactive BS throughout, no HSM
EXT: WWP no deformity ___ edema. 
SKIN: Warm, dry, no rash
NEURO: AOx3, fluent speech, no apparent word finding
difficulties, CN III-XII intact, strength b/l ___ intact, gait
steady. 
ACCESS: DL PORT w/o erythema, bleeding or discharge 

 
Pertinent Results:
___ 12:00AM BLOOD WBC-5.2 RBC-2.54* Hgb-8.4* Hct-25.9* 
MCV-102* MCH-33.1* MCHC-32.4 RDW-15.2 RDWSD-57.1* Plt ___
___ 12:00AM BLOOD Neuts-70.5 Lymphs-15.8* Monos-3.9* 
Eos-9.2* Baso-0.2 Im ___ AbsNeut-3.66 AbsLymp-0.82* 
AbsMono-0.20 AbsEos-0.48 AbsBaso-0.01
___ 12:00AM BLOOD Glucose-105* UreaN-14 Creat-1.0 Na-140 
K-4.1 Cl-102 HCO3-28 AnGap-10
___ 12:00AM BLOOD ALT-21 AST-19 LD(LDH)-158 AlkPhos-59 
TotBili-0.2
___ 12:00AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.9
___ 10:05AM BLOOD mthotrx-0.___SSESSMENT & PLAN: A ___ year-old male with history of
"double-hit" DLBCL and secondary intravascular lymphoma (s/p 6C
DA-EPOCH/R and 3C HD MTX for CNS prophylaxis) now with relapsed
CNS disease, presenting for C5 HD MTX at 3.5g/m2. Restaging MRI
and PET showed significant treatment response with near
resolution of
known left midbrain mass as well as no evidence of FDG avid
lymphadenopathy. He does, however, have evidence of severe
pansinusitis that seemed to have progressed compared to prior
imaging. Seen by ENT and no evidence of active infection on
direct visualization.  

ACTIVE ISSUES
 
#CNS Relapse
#DLBCL, "double hit": 
Originally treated with 6 cycles of DA-R-EPOCH and 3 cycles of 
HD
methotrexate for CNS prophylaxis (last
cycle ___. PET scan and CT imaging following treatment
without evidence of lymphoma. His diplopia which has now 
resolved
is likely caused by new pontine lesion noted on ___
-Plan to continue HD methotrexate ideally every 2 weeks 
-Methotrexate 7980 mg IV Day 1. (___)
 (3500 mg/m2) 
-Leucovorin rescue 24hrs after MTX per protocol   
-Will check methotrexate levels 24 hours, 48 hours, and 72 hours
after end of methotrexate infusion.      
-Goal MTX level <0.1 with supportive Hydration  
-150 mEq Sodium Bicarbonate/1000 mL D5W; Continuous at 150
mL/hr for 12 hrs after MTX level is < 0.1 microM/L
-Nutrition order: No carbonated beverages, citric acid, VitC     

-Avoid PPI, ASA, bactrim, PCNs and cephalosporin w/ HD MTX
-Received rituximab on ___ per his outpatient treatment plan

24H MTX level 3.0.  Follow 48 and 72 hour levels.  
48H 0.22
72H 0.12
0.10 at time of discharge. 

Discharged on po LV and bicarb.  

CHRONIC ISSUES:
-----------------

#HTN: He has been off lisinopril due
of prior ___. If becomes hypertensive, will likely need an
alternate agent

___: Has had prior history of acute kidney injury attributed to
HD MTX. Given this, we have held potentially offending agents
such as acyclovir and bactrim. Continue to monitor and trend

#Peripheral Neuropathy: No recent exacerbation. Suspect
chemotherapy-induced, grade I. Not interfering w/ ADL, continue
to monitor. 
-Hold vitamin B complex inhouse 

#HLD: Holding Simvastatin with ongoing treatment.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 400 mg PO DAILY 
2. LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia 
3. Magnesium Oxide 400 mg PO DAILY 
4. Vitamin B Complex 1 CAP PO DAILY 
5. Sodium Bicarbonate 1300 mg PO QID 

 
Discharge Medications:
1.  Leucovorin Calcium 25 mg PO Q6H 
for 3 days  
2.  LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia  
3.  Magnesium Oxide 400 mg PO DAILY  
4.  Sodium Bicarbonate 1300 mg PO QID  
5.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
CNS Relapse of Lymphoma
Double hit DLBCL
Encounter for Chemotherapy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to receive C5 of your HD MTX. You tolerated 
this well and will be discharged home today. Please continue to 
take all of your medications as prescribed. Your appointment 
with Dr. ___ is as listed below. It was a pleasure taking care 
of you.
 
Followup Instructions:
___